US04753941
The procedure is similar to that described in Example 2, but starting with 5-chloro-2-thiophenecarboxylic acid (9.5 g), N,N'-carbonyldiimidazole (9.5 g) and 2-amino-7-chloro-1,8-naphthyridine (8 g). The product obtained by precipitation in water is purified by recrystallization in propanol (700 cc). N-(7-Chloro-1,8-naphthyridin-2-yl)-5-chloro-2-thiophenecarboxamide (8.3 g), m.p. 275° C., is thereby obtained.

reactant | 5-chloro-2-thiophenecarboxylic acid | 9.5 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | 2-amino-7-chloro-1,8-naphthyridine | 8 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
solvent | water | O | H2O
product | N-(7-Chloro-1,8-naphthyridin-2-yl)-5-chloro-2-thiophenecarboxamide | 8.3 g | ClC1=CC=C2C=CC(=NC2=N1)NC(=O)C=1SC(=CC1)Cl | C13H7Cl2N3OS
